US05661181
In this example, pentaerythritol dibutyratedipropionate was prepared from pentaerythritol dibutyrate as follows. To a solution of pentaerythritol dibutyrate (0.5 g; 1.81 mmol) in dry pyridine (10 mL, under argon) at 0° C. was added propionyl chloride (0.6 mL) dropwise over one hour. The ice bath was removed after one hour, and the reaction stirred 24 hours at room temperature. Water (5 mL) was added and the bulk of pyridine was removed on the rotary evaporator at 2 Torr. The residue was dissolved in 1N HCL (5 mL) and the desired product extracted with CHCl3 (2×20 mL). The combined organic extracts were dried (MgSO4) and concentrated under vacuum. Purification of the crude product by flash column chromatography using silica gel afforded pentaerythritol dibutyrate dipropionate (0.6 g).

reactant | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
reactant | pentaerythritol dibutyrate | C(CCC)(=O)OCC(COC(CCC)=O)(CO)CO | C13H24O6
reactant | pentaerythritol dibutyrate | 1.81 mmol, 0.5 g | C(CCC)(=O)OCC(COC(CCC)=O)(CO)CO | C13H24O6
reactant | propionyl chloride | 0.6 mL | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | pentaerythritol dibutyrate dipropionate | 0.6 g | C(CC)(=O)OCC(COC(CCC)=O)(COC(CCC)=O)COC(CC)=O | C19H32O8
